US08748466B2
(2R)-4-[3-(2-Fluoro-3-methoxyphenyl)isoxazol-5-yl]-2-methyl-2-(methylsulfonyl)butanoic acid
Sodium hydroxide (1.0 M aqueous solution, 4.7 mL, 4.7 mmol, 4.0 equiv) was added to solution of ethyl(2R)-4-[3-(2-fluoro-3-methoxyphenyl)isoxazol-5-yl]-2-methyl-2-(methylsulfonyl)butanoate (0.47 g, 1.2 mmol, 1.0 equiv) in 1,4-dioxane (10 mL), and the reaction was allowed to stir overnight (18 h) at room temperature. Water (5 mL) was added, and the mixture was extracted with diethyl ether (25 mL). The aqueous phase was acidified to pH=3 with 1.0 M hydrochloric acid and then extracted with ethyl acetate (2×50 mL). The combined ethyl acetate phases were dried over potassium carbonate, filtered and concentrated under reduced pressure to provide a light tan solid (0.42 g, 96%). MS (LCMS) m/z 372.1 (M+1). 1H NMR (400 MHz, METHONAL-d4) δ1.68 (s, 3H) 2.26-2.41 (m, 1H) 2.61-2.74 (m, 1H) 2.85-3.00 (m, 1H) 3.04-3.15 (m, 1H) 3.16 (s, 3H) 3.92 (s, 3H) 6.65 (d, J=3.12 Hz, 1H) 7.18-7.24 (m, 2H) 7.36-7.44 (m, 1H).

reactant | Sodium hydroxide | 4.7 mmol, 1.0 M, 4.7 mL, 4.0 equiv | [OH-].[Na+]
reactant | ethyl(2R)-4-[3-(2-fluoro-3-methoxyphenyl)isoxazol-5-yl]-2-methyl-2-(methylsulfonyl)butanoate | 1.2 mmol, 0.47 g, 1.0 equiv | FC1=C(C=CC=C1OC)C1=NOC(=C1)CC[C@](C(=O)OCC)(S(=O)(=O)C)C | C18H22FNO6S
reactant | Water | 5 mL | O | H2O
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (2R)-4-[3-(2-Fluoro-3-methoxyphenyl)isoxazol-5-yl]-2-methyl-2-(methylsulfonyl)butanoic acid | 0.42 g, 96% | FC1=C(C=CC=C1OC)C1=NOC(=C1)CC[C@](C(=O)O)(S(=O)(=O)C)C | C16H18FNO6S
